US07279600B2
3-Chloro-4′-hydroxy-2′-methyl-1,1′-biphenyl-4-carbaldehyde oxime
The title compound was prepared by reacting 3-chloro-4′-hydroxy-2′-methyl-1,1′-biphenyl-4-carbaldehyde (500 mg, 2.03 mmol) with hydroxylamine hydrochloride (425 mg, 6.10 mmol) in anhydrous tetrahydrofuran (50 mL) and methanol (20 mL) according to Method C to yield 350 mg (57% over two steps) of white solid: mp 169-171° C.; 1H NMR (DMSO-d6): δ 2.19 (3H, s), 6.65-6.70 (2H, m), 7.06 (1H, d, J=8.14 Hz), 7.31 (1H, d, J=8.05 Hz), 7.41 (1H, d, J=1.40 Hz), 7.83 (1H, d, J=8.08 Hz), 8.38 (1H, s), 9.51 (1H, s), 11.69 (1H, s); MS (ESI) m/z 260/262 (M−H)−, 262/264 (M+H)+.

reactant | 3-chloro-4′-hydroxy-2′-methyl-1,1′-biphenyl-4-carbaldehyde | 2.03 mmol, 500 mg | ClC=1C=C(C=CC1C=O)C1=C(C=C(C=C1)O)C | C14H11ClO2
reactant | hydroxylamine hydrochloride | 6.10 mmol, 425 mg | Cl.NO
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
product | 3-Chloro-4′-hydroxy-2′-methyl-1,1′-biphenyl-4-carbaldehyde oxime | ClC=1C=C(C=CC1C=NO)C1=C(C=C(C=C1)O)C | C14H12ClNO2
